US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (2.00 g) obtained from Referential Example 7 and potassium carbonate (1.10 g) were suspended in a mixed solvent of methylene chloride (30 ml) and water (20 ml). A solution of benzyl chloroformate (1.35 g) in methylene chloride (10 ml) was added thereto under ice-cooling, and the mixture was stirred for 2 hours at same temperature and then stirred overnight at room temperature. The reaction mixture was separated into organic layer and aqueous layer, the organic layer was successively washed with aqueous 10% oxalic acid solution, water, and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure, to thereby obtain the 2.61 g of titled compound.

reactant | 2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.00 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | potassium carbonate | 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
reactant | benzyl chloroformate | 1.35 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-oxo-3-tert-butoxycarbonylamino-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.61 g | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(=O)OCC2=CC=CC=C2)NC(=O)OC(C)(C)C | C23H27N3O5
